US08404859B2
Preparation of (S)-2-{[5-(3-Hydroxy-benzylcarbamoyl)-3-isopropyl-thiophene-2-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester
To a solution of (S)-3-Amino-2-{[5-(3-hydroxy-benzylcarbamoyl)-3-isopropyl-thiophene-2-carbonyl]-amino}-propionic acid methyl ester trifluoro-acetic acid salt (0.16 mmol) in anhydrous DMF (4 mL) was added triethylamine (0.07 mL, 0.48 mmol), HBTU (0.091 g, 0.24 mmol), HOBT (0.026 g, 0.19 mmol), and 2-Thiophenecarboxylic acid (0.025 g, 0.19 mmol). The mixture was stirred at room temperature 1.5 h, treated with EtOAc (30 mL), washed with brine, dried over sodium sulfate, filtered and evaporated. The solid residue was purified by column (0-100% EtOAc in hexane) to give 0.040 g (47%) white foam product. MS m/e 530.0 (M+H+).

reactant | (S)-3-Amino-2-{[5-(3-hydroxy-benzylcarbamoyl)-3-isopropyl-thiophene-2-carbonyl]-amino}-propionic acid methyl ester trifluoro-acetic acid salt | 0.16 mmol | FC(C(=O)O)(F)F.COC([C@H](CN)NC(=O)C=1SC(=CC1C(C)C)C(NCC1=CC(=CC=C1)O)=O)=O
reactant | triethylamine | 0.48 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.24 mmol, 0.091 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 0.19 mmol, 0.026 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-Thiophenecarboxylic acid | 0.19 mmol, 0.025 g | S1C(=CC=C1)C(=O)O | C5H4O2S
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (S)-2-{[5-(3-Hydroxy-benzylcarbamoyl)-3-isopropyl-thiophene-2-carbonyl]-amino}-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester | 0.040 g, 47% | COC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C=1SC(=CC1C(C)C)C(NCC1=CC(=CC=C1)O)=O)=O | C25H27N3O6S2
